US07989628B2
N5-Allyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine
The title compound, MS: m/e=294.4 (M+H+), was prepared in accordance with the general method of example 3 from 5-bromo-2-chloroquinoline, 5-methyl-2-furanmethanamine and allylamine.

reactant | 5-bromo-2-chloroquinoline | BrC1=C2C=CC(=NC2=CC=C1)Cl | C9H5BrClN
reactant | 5-methyl-2-furanmethanamine | CC1=CC=C(O1)CN | C6H9NO
reactant | allylamine | C(C=C)N | C3H7N
product | N5-Allyl-N2-(5-methyl-furan-2-ylmethyl)-quinoline-2,5-diamine | C(C=C)NC=1C=2C=CC(=NC2C=CC1)NCC=1OC(=CC1)C | C18H19N3O
